US04221725
To a stirred suspension of 57% sodium hydride-paraffin (6.45 g), in dry dimethylformamide (70 ml) is slowly added ethanethiol (11.89 ml) in dry dimethylformamide (20 ml). After stirring the resultant slurry for 15 minutes, a solution of 3-(4-methoxyphenyl)glutaric acid (3.0 g) in dry dimethylformamide (20 ml) is added. The slurry is heated in a bath at 165° C. for 5.0 hours and most of the solvent is removed by distillation in vacuo. The residue is diluted with water, acidified with concentrated hydrochloric acid and extracted twice with ether (the extracts are discarded). The solution is saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate solution is washed once with brine, dried and the residue crystallized from chloroform-hexane to afford 2.3 g of 3-(4-hydroxyphenyl)-glutaric acid, melting point 168°-170° C.

reactant | ethanethiol | 11.89 ml | C(C)S | C2H6S
reactant | 3-(4-methoxyphenyl)glutaric acid | 3.0 g | COC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C12H14O5
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(4-hydroxyphenyl)-glutaric acid | 2.3 g | OC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C11H12O5
